US06369075B1
4-Chloro-7-nitro-quinoline-3-carboxylic acid ethyl ester
4-Hydroxy-7-nitro-quinoline-3-carboxylic acid ethyl ester (15.6 g, 59.5 mmol) was suspended in chloroform (250 ml) and oxalyl chloride (20.7 ml, 30.2 g, 238 mmol) was added, followed by dimethyl formamide (0.4 ml, 0.38 g, 5.2 mmol). After heating at reflux for 2.5 h, the mixture was added to 300 ml of a 2N aqueous sodium hydroxide solution cooled in an ice/water bath. After stirring vigorously for 30 minutes, the aqueous layer was extracted with chloroform (200 ml). The combined organic phases were washed with water, brine and then dried over anhydrous magnesium sulfate. After vacuum filtration, the solution was concentrated under vacuum to provide 15.6 g of a fluffy brown solid. This solid was transferred to a Soxleht thimble and extracted with dichloromethane for 4 h employing a Soxleht extractor. Concentration of the dichloromethane solution under vacuum yielded 14.68 g of a tan solid. This solid was crystallized by dissolving in 400 ml of hot acetone and cooling to 0° C. overnight. The solid was collected by filtration, rinsing with ice-cold acetone, to yield 9.91 g of the title product as light yellow needles.

reactant | 4-Hydroxy-7-nitro-quinoline-3-carboxylic acid ethyl ester | 59.5 mmol, 15.6 g | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1O)[N+](=O)[O-] | C12H10N2O5
reactant | oxalyl chloride | 238 mmol, 20.7 ml, 30.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | dimethyl formamide | 5.2 mmol, 0.4 ml, 0.38 g | CN(C=O)C | C3H7NO
product | 4-Chloro-7-nitro-quinoline-3-carboxylic acid ethyl ester | 15.6 g | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1Cl)[N+](=O)[O-] | C12H9ClN2O4
